Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with recent diagnosis of CAD s/p DES x2 to RCA (___), 
presents with one day history of chest pain. On morning of 
admission had 30 minute episode of chest "pulsating" sensation 
while walking. Then fleeting episodes of chest discomfort and 
"tenderness" (less than 30 seconds) throughout day following the 
original episode, so patient decided to present to ___ 
___. He had one negative set of cardiac enzymes at 
___ and was rapidly transferred to ___ for 
"increased level of care." He did not take any nitro during his 
multiple episodes of chest discomfort. He notes that the feeling 
in his chest is unlike his episode of chest pain associated with 
his NSTEMI in ___. Reports that he has had lightheadedness 
today, though the LH does not specifically correlate with the 
chest discomfort. Additionally, he reports that several days 
prior to presentation, he was started on metoprolol tartrate 25 
mg daily by his primary physician.

Patient was previously healthy until early ___ reported to 
primary care physician reporting dyspnea on exertion. This led 
to a stress test during which patient developed chest pain, was 
identified as having NSTEMI at ___ and was subsequently 
transferred to ___. At ___, patient had cardiac 
catheterization with intervention to RCA x 2 on ___. Was 
note of 60% LAD lesion with no intervention. Patient was 
discharged from hospital on ___ and has been doing well 
since that time without chest pain and, reportedly taking 
aspirin and clopidogrel religiously.

In the ___ ___, vitals at presentation were T 97.6, BP 116/76, 
HR 50, RR 18, O2sat 98% RA. Had sinus bradycardia with rate in 
___ and ___. Patient had no intervention in ___. He has multiple 
episodes of fleeting CP (< 5 seconds) while there. First set 
cardiac enzymes were negative and D-dimer was normal. CXR was 
without concern for acute process. Patient being admitted for 
completion of rule-out for MI. Vital signs immediately prior to 
transfer were T 97.6, BP 126/71, HR 52, RR 12, O2sat 98% RA.

Upon arriving to the floor, patient was comfortable and CP free.

REVIEW OF SYSTEMS:
Cardiac:
(+)ve: chest pain, lightheadedness
(-)ve: dyspnea on exertion, paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, palpitations, syncope
General:
(+)ve: Denies
(-)ve: fevers, chills, rigors, stroke, TIA, deep venous 
thrombosis, pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, cough, hemoptysis, black stools, red 
stools. All of the other review of systems were negative.
 
Past Medical History:
Cardiac Risk Factors:
(-)ve Diabetes
(-)ve Dyslipidemia
(-)ve Hypertension

Cardiac History:
Percutaneous coronary intervention: ___: NSTEMI after 
stress test leading to stenting of distal RCA and proximal RCA 
with DES.
CABG: None
Pacemaker/ICD: None

Other Past History:
s/p appendectomy
 
Social History:
___
Family History:
Father with MI at age ___.
Three brothers with CABG and MI's in ___, ___, and ___.
 
Physical Exam:
VS: T 97.6 (in ___, BP 143/75, HR 52, RR 16, O2sat 95% RA
Gen: NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
Neck: Supple with no elevation of JVP, no ___
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.
Abd: BS+, soft, NTND. No HSM or tenderness. No abdominial 
bruits.
Ext: No c/c/e. No femoral bruits.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.

Pulses:
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+
 
Pertinent Results:
CHEST (PA & LAT)Study Date of ___:
CONCLUSION: No acute cardiopulmonary process.

HEMATOLOGY:
___ 04:40PM BLOOD WBC-6.7 RBC-4.13* Hgb-13.1* Hct-38.6* 
MCV-94 MCH-31.6 MCHC-33.8 RDW-13.2 Plt ___
___ 04:40PM BLOOD Neuts-40.9* Lymphs-48.9* Monos-5.2 
Eos-4.4* Baso-0.6
___ 06:35AM BLOOD WBC-6.1 RBC-4.07* Hgb-13.0* Hct-37.8* 
MCV-93 MCH-31.9 MCHC-34.3 RDW-13.2 Plt ___

CHEMISTRY:
___ 04:40PM BLOOD Glucose-70 UreaN-14 Creat-1.0 Na-142 
K-4.2 Cl-106 HCO3-29 AnGap-11
___ 06:35AM BLOOD Glucose-90 UreaN-13 Creat-0.9 Na-141 
K-4.2 Cl-107 HCO3-25 AnGap-13

CARDIAC ENZYMES:
___ 04:40PM BLOOD CK(CPK)-87
___ 04:40PM BLOOD CK-MB-NotDone
___ 04:40PM BLOOD cTropnT-<0.01
___ 01:40AM BLOOD CK(CPK)-78
___ 01:40AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 06:35AM BLOOD CK(CPK)-77
___ 06:35AM BLOOD CK-MB-NotDone cTropnT-<0.01

___ 04:40PM BLOOD D-Dimer-248
 
Brief Hospital Course:
#. CAD / Chest pain:
Patient's chest pain was atypical for cardiac pain as it was 
completely unlike the pain he experienced during NSTEMI in 
___. Additionally, we measured three negative sets of cardiac 
enzymes. His CXR was without evidence of acute cardiopulmonary 
process. He had a D-dimer measured due to low probability of PE 
in the ___ and his D-dimer level was normal, ruling out PE.  He 
had no EKG changes at presentation or on morning of discharge. 
His telemetry was without concerning arrhythmia while in the 
hospital. Prior to discharge, patient was ambulated through the 
halls and was without chest pain. Upon discharge, we continued 
him on home aspirin, clopidogrel, atorvastatin, nitroglycerin. 
He was discharged with instruction to follow-up with his primary 
care physician ___ 1 to 2 weeks.

#. Pump:
Patient with normal LVEF = 50% at last ECHO on ___. 
Euvolemic on exam at presentation.

#. Rhythm:
Sinus bradycardia in ___ with rate ___ to ___. Patient also 
reporting periods of lightheadedness since starting on 
metoprolol. We decided to discontinue metoprolol at time of 
discharge.
 
Medications on Admission:
1) Aspirin 325 mg Tablet DAILY
2) Clopidogrel 75 mg PO DAILY
3) Atorvastatin 80 mg PO DAILY
4) Nitrostat 0.3 mg Tablet PRN
5) Metoprolol tartrate 25 mg DAILY

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: As directed  
Sublingual Every 5 minutes as needed for chest pain: Up to 3 can 
be taken every 5 minutes until there is relief of pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1) Musculoskeletal chest pain
2) Bradycardia
Secondary:
3) Coronary artery disease

 
Discharge Condition:
vital signs stable, chest pain free

 
Discharge Instructions:
You were admitted to the hospital with chest pain. We measured 
three sets of lab tests that confirmed you did not have a heart 
attack. We also measured a lab test to tell us that you did not 
have a blood clot travel to your lungs. We are unsure of the 
exact cause of your chest pain; however, your story makes us 
believe that it is a muscular or bone pain. You can further 
explore this particular pain with Dr. ___ it continues to 
trouble you. We noted that you had a low heart rate while in the 
hospital. This was likely related to your metoprolol.

MEDICATIONS:
STOP taking metolprolol as it seems to make your heart too slow.
Please continue all other medications as previously prescribed.

Please call your primary care physician ___, MD 
(___) to follow-up on this hospitalization within 2 
weeks from discharge. As you are already considering cardiology 
care at ___, Dr. ___ help refer you to been seen 
by a general cardiologist here.

Regarding future chest pain. Please sit and rest immediately if 
you have chest pain and take a nitroglycerin tab if the pain 
does not resolve within minutes of rest. You should take an 
additional nitro tab every 5 minutes for a total of 3 tabs until 
the pain resolves. Please call a doctor to report this episode 
of chest pain following relief of the pain, or if the pain is 
unable to be relieved.

Should you have any chest pain, shortness of breath, 
lightheadedness, loss of consciousness, or other symptoms that 
are concerning to you, please call your physician or report to 
an emergency department immediately.
 
Followup Instructions:
___